US05081246
1-[N-(Benzyloxycarbonyl) histidyl]-4-phenylpiperazine
7.13 g of N,N'-dibenzyloxycarbonyl histidine, 3.00 g of 4-phenylpiperazine and 16.1 g of N-hydroxybenzotriazole were dissolved in 100 ml of tetrahydrofuran, and to the mixture was added 3.84 g of DCC (dicyclohexylcarbodiimide), and the whole was stirred a& a room temperature for three hours. An insoluble matter was filtered off, the filtrate was concentrated under a reduced pressure, and to the concentrate was added 200 ml of ethyl acetate to reform crystals, which were then filtered off. The filtrate was sequentially washed with 20% potassium carbonate aqueous solution and saturated sodium chloride aqueous solution, dried over magnesium sulfate, and concentrated under a reduced pressure. The resulting residue was dissolved in 60 ml of methanol, and after an addition of a 10% ammonium-methanol solution and stirring at a room temperature for 30 minutes, the solution was concentrated under a reduced pressure to obtain a residue, which was then subjected to silica gel chromatography and eluted with chloroform/methanol (50:1 to 10:1) to obtain 6.61 g of the title compound in a colorless amorphous form.

reactant | N,N'-dibenzyloxycarbonyl histidine | 7.13 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CN(C=N1)C(=O)OCC1=CC=CC=C1)C(=O)O | C22H21N3O6
reactant | 4-phenylpiperazine | 3.00 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | N-hydroxybenzotriazole | 16.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 3.84 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[N-(Benzyloxycarbonyl) histidyl]-4-phenylpiperazine | 6.61 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C24H27N5O3
